US05071999
c) Ethyl 3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
32 g (0.11 mol) of ethyl 2-benzyl-3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in 560 ml of ethanol are hydrogenated at 100° C. and 100 bar on 4.5 g of palladium-active carbon. The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | ethyl 2-benzyl-3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 0.11 mol, 32 g | C(C1=CC=CC=C1)N1C2CN(CC2CC1C)C(=O)OCC | C17H24N2O2
solvent | ethanol | 560 ml | C(C)O | C2H6O
catalyst | palladium | 4.5 g | [Pd] | Pd
product | Ethyl 3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CC1NC2CN(CC2C1)C(=O)OCC | C10H18N2O2
